* C:\Users\pache\OneDrive\Documents\OpenBeam\Hardware\Misc\Draft1.asc
V1 N001 0 SINE(0 2 2k) AC 2
R1 N002 N001 {10*Rs}
L1 N002 N001 3m
C1 N002 0 470n
R2 N002 0 {Rs}
.tran .5
.step param Rs 10 10e3
* .param Rs 10
* Pacheck Nicholas
.backanno
.end
