* C:\Users\pache\OneDrive\Documents\OpenBeam\Hardware\Misc\Draft2.asc
C1 N006 0 {Cz}
R1 N004 N006 {1.25*Rs}
L1 N004 N005 {Ls}
R2 N005 0 {Rs}
V1 N004 0 AC 1
L2 N002 N003 {Ls}
R4 N003 0 {Rs}
V2 N001 0 AC 1
R3 N002 N001 50
.ac lin .1 1 30e3
.param Cz = Ls/(Rs*Rs)
.param Ls 2e-3
.param Rs 82
* Pacheck Nicholas
.backanno
.end
