* C:\Users\pache\OneDrive\Documents\OpenBeam\Hardware\Misc\Draft7.asc
V1 N002 0 SINE(0 1 {fin}) AC 1
XU1 N005 N003 N001 N006 N004 LT1357
R2 N004 N003 {3*Rs}
R3 N003 N002 {Rs}
V2 N001 0 5
V3 0 N006 5
R1 N005 0 {Rshift}
C1 N005 N002 {Cs}
.param Rs = 1k
.param Cs = 1/(2*3.14*fin)
.param fin = 4e6
.step param theta 0 179 10
.ac lin 10 10 10e6
.param Rshift TAN((theta)/2)/(2*3.14*fin*Cs)
.lib LTC.lib
.backanno
.end
